US06482849B1
To a mixture of N-(tert-butoxycarbonyl)-L-tyrosine methyl ester (356 mg), K2CO3 (830 mg), n-Bu4NI (89 mg) in DMF (5 ml) was added cyclohexylmethyl bromide (202 μl) and the mixture was stirred for 1 day at room temperature. After addition of brine (40 ml), the resulting mixture was extracted with AcOEt. The extract was dried over Na2SO4 and the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel (eluent; 9:1, Hexane/AcOEt→1:1, Hexane/AcOEt) to give N-(tert-butoxycarbonyl)-O-cyclohexylmethyl-L-tyrosine methyl ester (470 mg). The obtained compound (347 mg) was dissolved in 3N HCl/AcOEt (5 ml) and the mixture was stirred overnight. The solvent and excess HCl was removed in vacuo to give O-(Cyclohexylmethyl)-L-tyrosine methyl ester, hydrochloride salt.

reactant | N-(tert-butoxycarbonyl)-L-tyrosine methyl ester | 356 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | K2CO3 | 830 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexylmethyl bromide | 202 μl | C1(CCCCC1)CBr | C7H13Br
catalyst | n-Bu4NI | 89 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | brine | 40 ml | [Cl-].[Na+].O
product | N-(tert-butoxycarbonyl)-O-cyclohexylmethyl-L-tyrosine methyl ester | 470 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCC1CCCCC1)=O | C22H33NO5
